US07601711B2
(5-Bromo-1H-indol-2-yl)-morpholin-4-yl-methanone
A mixture of 5-bromoindole-2-carboxylic acid (5 g, 21 mmol), and 1,1′-carbonyldiimidazole (4.39 g, 27 mmol) in tetrahydrofuran (60 mL) was stirred at room temperature overnight. Morpholine (3.63 mL, 42 mmol) was added and the mixture was stirred for an additional 40 min. The reaction mixture was partitioned between ethyl acetate and an aqueous solution of sodium bicarbonate. The organic layer was washed with hydrochloric acid (1N) and brine, then dried over sodium sulfate, filtered and evaporated in vacuo, to give 6.74 g (99%) of the desired compound as a yellow solid which was used without further purification.

reactant | 5-bromoindole-2-carboxylic acid | 21 mmol, 5 g | BrC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6BrNO2
reactant | 1,1′-carbonyldiimidazole | 27 mmol, 4.39 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Morpholine | 42 mmol, 3.63 mL | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | (5-Bromo-1H-indol-2-yl)-morpholin-4-yl-methanone | 6.74 g, 99% | BrC=1C=C2C=C(NC2=CC1)C(=O)N1CCOCC1 | C13H13BrN2O2
